US03939164
The above prepared 7,8-dichloroisoquinoline hydrochloride was reduced in two portions, using 0.7 g. of platinum oxide in 100 cc. of methanol, for 1 hour at ambient temperature. The mixture was filtered and concentrated. The residue was converted to the base using ammonium hydroxide and was extracted into ether. The extract was dried with magnesium sulfate, filtered and concentrated to give, as the residue, 7,8-dichloro-1,2,3,4-tetrahydroisoquinoline.

reactant | 7,8-dichloroisoquinoline hydrochloride | Cl.ClC1=CC=C2C=CN=CC2=C1Cl
catalyst | platinum oxide | [Pt]=O
solvent | methanol | CO | CH4O
product | 7,8-dichloro-1,2,3,4-tetrahydroisoquinoline | ClC1=CC=C2CCNCC2=C1Cl | C9H9Cl2N
